US06469065B1
7a. 3-Methyl-3-sulfanylbutyl Acetate
3-Methyl-3-sulfanylbutan-1-ol (Sweetman et al, J. Med. Chem. 14:868 (1971), the disclosure of which is incorporated by reference herein in its entirety) (5 g, 42 mmol) and pyridine (3.6 mL, 43 mmol) were dissolved in methylene chloride (50 mL) and cooled to −78° C. Acetyl chloride (3.1 mL, 43 mmol) was added dropwise. The solution was kept cold for 30 min then allowed to warm to room temperature. Stirring was continued for 1.5 hours. The reaction mixture was diluted with methylene chloride, washed with 1 N HCl and brine, and dried over sodium sulfate. Evaporation of the solvent gave 6.6 g of the title compound which was used without further purification. 1H-NMR (CDCl3): δ1.41 (s, 3H), 1.92 (t, J=7.2 Hz, 2H), 2.03 (s, 3H), 2.21 (s, 1H), 4.25 (t, J=7.1 Hz, 2H).

reactant | 3-Methyl-3-sulfanylbutan-1-ol | CC(CCO)(C)S | C5H12OS
reactant | pyridine | 43 mmol, 3.6 mL | N1=CC=CC=C1 | C5H5N
reactant | Acetyl chloride | 43 mmol, 3.1 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Methyl-3-sulfanylbutyl Acetate | 6.6 g | C(C)(=O)OCCC(C)(S)C | C7H14O2S
